US07932398B2
Air in a 20 ml Schlenk tube was replaced by Ar gas and 1.02 g (7 mmol) of m-ethynylbenzoic acid and 5 g (42 mmol) of thionyl chloride were added to the tube and the mixture was stirred at 50° C. for 2 hours and then excess thionyl chloride was removed by distillation under reduced pressure to obtain m-ethynylbenzoyl chloride. To the m-ethynylbenzoyl chloride obtained was added a solution having 298 μl (7.35 mmol) of methanol and 3.4 ml (42 mmol) of pyridine dissolved in 7 ml of dichloromethane under ice-cooling and then the resultant mixture was stirred at room temperature for one hour. After completion of the stirring, dichloromethane was removed by distillation under reduced pressure and 35 ml of water was added to the resultant residue and extracted with 35 ml of diethyl ether. The ether layer was dried over magnesium sulfate and the solvent was removed by distillation under reduced pressure using an evaporator. The resultant crude reaction product was dissolved in 15 ml of hexane at 70° C., insoluble matter was removed by filtration and the filtrate was cooled to obtain 0.74 g of ethyl 3-ethynylbenzoate which is a desired product as yellow solid. (Yield: 66E)

reactant | m-ethynylbenzoyl chloride | C(#C)C=1C=C(C(=O)Cl)C=CC1 | C9H5ClO
reactant | methanol | 7.35 mmol, 298 μl | CO | CH4O
reactant | pyridine | 42 mmol, 3.4 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | hexane | 15 ml | CCCCCC | C6H14
product | ethyl 3-ethynylbenzoate | 0.74 g | C(#C)C=1C=C(C(=O)OCC)C=CC1 | C11H10O2
